US03939267
The starting material is prepared as follows: The mixture of 12.5 g of 4-(4-acetamidophenoxy)-3-nitro-5-sulfamoylbenzoic acid and 125 ml of acetic anhydride is refluxed for two hours under nitrogen and evaporated under reduced pressure. The residue is taken up in 125 ml of 2N aqueous sodium hydroxide and 25 ml of water, the solution washed with diethyl ether, filtered and the filtrate acidified with concentrated hydrochloric acid and the precipitate recrystallized from 33 and 50% aqueous ethanol, to yield the 4-(4-acetamidophenoxy)-3-nitro-5-acetylsulfamoylbenzoic acid decomposing at about 240°. The solution of 10.5 g thereof in 100 ml of water and 22 ml of 2N aqueous sodium hydroxide is hydrogenated over 2.5 g of 10% palladium on charcoal until the theoretical amount of hydrogen has been absorbed. The mixture is filtered, the filtrate acidified with concentrated hydrochloric acid and the precipitate recrystallized from aqueous ethanol, to yield the 4-(4-acetamidophenoxy)-3-amino-5-acetylsulfamoylbenzoic acid melting at 305°-306° with decomposition.

reactant | 4-(4-acetamidophenoxy)-3-nitro-5-sulfamoylbenzoic acid | 12.5 g | C(C)(=O)NC1=CC=C(OC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)[N+](=O)[O-])C=C1 | C15H13N3O8S
reactant | acetic anhydride | 125 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(4-acetamidophenoxy)-3-nitro-5-acetylsulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(OC2=C(C=C(C(=O)O)C=C2S(NC(C)=O)(=O)=O)[N+](=O)[O-])C=C1 | C17H15N3O9S
